* /Users/MichaelLin/Documents/FA-2013-School/EE105/MiniProject/Design1v2.asc
C2 N022 VinB 10µF
V1 N001 0 9V
Vin N023 0 SINE(0 40uV 2000) AC 1 0
R3 N020 0 100
R4 N001 N007 1k
R2 N001 Vout 1k
R6 N001 N002 1k
R7 N001 Vout2 1k
R8 N019 0 100
R11 N008 N002 100k
C1 N008 NC_01 10µF
R5 N001 N003 1k
R9 N001 Vout3 1k
R10 N015 0 100
R12 N009 N003 100k
C3 N009 Vout2 10µF
R14 N001 N004 1k
R15 N001 Vout4 1k
R16 N016 0 100
R17 N010 N004 100k
C4 N010 Vout3 10µF
R21 N001 N005 1k
R22 N001 N013 1k
R23 N017 0 100
R24 N011 N005 100k
C6 N011 Vout4 10µF
R25 N021 0 8
R20 Vout6 0 100
C7 Vout6 N021 10µF
XM3 Vout3 N009 N015 BS170/ZX
XM1 N001 N014 Vout6 BS170/ZX
XM2 Vout4 N010 N016 BS170/ZX
XM4 N013 N011 N017 BS170/ZX
XM6 Vout VinB N020 BS170/ZX
XM7 N007 N007 P001 BS170/ZX
XM9 N002 N002 P002 BS170/ZX
XM10 N003 N003 P003 BS170/ZX
XM11 N004 N004 P004 BS170/ZX
XM12 N005 N005 P005 BS170/ZX
XM5 Vout2 N008 N019 BS170/ZX
R13 N022 N023 100k
R28 P001 0 100
R26 P002 0 100
R27 P003 0 100
R29 P004 0 100
R30 P005 0 100
C5 0 N001 10µF
R1 VinB N007 100k
R18 N001 N006 1k
R19 N001 N014 1k
R31 N018 0 100
R32 N012 N006 100k
C8 N012 N013 10µF
XM8 N014 N012 N018 BS170/ZX
XM13 N006 N006 P006 BS170/ZX
R33 P006 0 100
.MODEL ALD1106 NMOS (LEVEL=1 CBD=0.5p CBS=0.5p CGDO=0.1p CGSO=0.1p GAMMA=.85
+ KP=225u L=10E-6 LAMBDA=0.029 PHI=.9 VTO=0.7 W=20E-6)
.MODEL ALD1107 PMOS (LEVEL=1 CBD=0.5p CBS=0.5p CGDO=0.1p CGSO=0.1p GAMMA=.45
+ KP=100u L=10E-6 LAMBDA=0.0304 PHI=.8 VTO=-0.82 W=20E-6)
.INCLUDE BS170.mod
*  ZETEX  BS170_Z Mosfet Spice Subcircuit   Last revision  3/5/00
*
.SUBCKT BS170/ZX 3 4 5
*             D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
C1 2 5 28E-12
C2 3 2 3E-12 
D1 5 3 N3306D
*
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS BS170
.model Q2N4401   NPN(Is=26.03f Xti=3 Eg=1.11 Vaf=90.7 Bf=4.292K Ne=1.244
+                Ise=26.03f Ikf=.2061 Xtb=1.5 Br=1.01 Nc=2 Isc=0 Ikr=0 Rc=.5
+                Cjc=11.01p Mjc=.3763 Vjc=.75 Fc=.5 Cje=24.07p Mje=.3641 Vje=.75
+                Tr=233.7n Tf=466.5p Itf=0 Vtf=0 Xtf=0 Rb=10)
*                Fairchild        pid=2N4400      case=TO92
*                88-09-13 bam    creation
.ac dec 500 100 10k
.backanno
.end
